US09315864B2
Synthesis of 2-(4-fluoro-1-benzothiophen-7-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane BM:
4,4,5,5-Tetramethyl-1,3,2-dioxaborolane (768 mg, 6 mmole) was added drop wise to a solution of 7-bromo-4-fluoro-1-benzothiophene BL (462 mg, 2.0 mmole) and triethylamine (607 mg, 6 mmole) in 12 mL dioxane. The solution was bubbling with argon with stirring for 10 min. PdCl2(PPh3)2 (70 mg, 0.01 mmole) was added to the reaction and continued to bubbling argon for another 10 min. The reaction was heated to 80° C. for 4 hr and cooled down to 25° C. Dioxane was removed in vacuo the residue dissolved in 60 mL Et2O washed with water (60 mL), brine (20 mL), dried (Na2SO4), filtered, concentrated in vacuo, and purified by CombiFlash silica gel column chromatography (eluted with Hexane/EtOAc stepping gradient 100:0 to 80:20) to yield 295 mg (53%) of product.

reactant | 4,4,5,5-Tetramethyl-1,3,2-dioxaborolane | 6 mmole, 768 mg | CC1(OBOC1(C)C)C | C6H13BO2
reactant | 7-bromo-4-fluoro-1-benzothiophene | BrC1=CC=C(C=2C=CSC21)F | C8H4BrFS
reactant | triethylamine | 6 mmole, 607 mg | C(C)N(CC)CC | C6H15N
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.01 mmole, 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(4-fluoro-1-benzothiophen-7-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 295 mg, 53% | FC1=CC=C(C2=C1C=CS2)B2OC(C(O2)(C)C)(C)C | C14H16BFO2S
